US05236952
A solution of 25.0 g of 3-bromoquinoline is dissolved in 200 ml of dry ether and cooled to -60°. At this temperature there are added dropwise within 15 minutes 75.1 ml of a 1.6 molar solution of n-butyllithium, whereupon the mixture is stirred for 10 minutes. A solution of 26.5 g of vanillin benzyl ether in 250 ml of dry ether is added dropwise thereto at -60°, the mixture is subsequently stirred at room temperature of 3 hours, poured into about 1.5 l of ice-water and extracted three times with 600 ml of ethyl acetate each time. The organic phase is washed with water, dried over sodium sulfate and evaporated. The resulting oil is chromatographed on 1 kg of silica gel with methylene chloride/ethyl acetate (1:1). The crystalline crude product obtained is recrystallized form ethyl acetate. There is obtained α-[4-(benzyloxy)-3-methoxyphenyl]-3-quinolinemethanol in the form of colourless crystals of m.p. 124°-125°.

reactant | 3-bromoquinoline | 25.0 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | vanillin benzyl ether | 26.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | α-[4-(benzyloxy)-3-methoxyphenyl]-3-quinolinemethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(O)C=1C=NC2=CC=CC=C2C1)OC | C24H21NO3
